US07863310B2
1-Isopropylsulfonyl-2-amino-6-(3-phenyl-5-methylisoxazol-4-yl)benzimidazole
Beginning with 3-phenyl-4-bromo-5-methylisoxazole and 1-isopropylsulfonyl-2-aminobenzimidazole-6-boronic acid, the title compound may be prepared essentially as described in EXAMPLE 59.

reactant | 3-phenyl-4-bromo-5-methylisoxazole | C1(=CC=CC=C1)C1=NOC(=C1Br)C | C10H8BrNO
reactant | 1-isopropylsulfonyl-2-aminobenzimidazole-6-boronic acid | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)B(O)O)N | C10H14BN3O4S
product | 1-Isopropylsulfonyl-2-amino-6-(3-phenyl-5-methylisoxazol-4-yl)benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2C(=NOC2C)C2=CC=CC=C2)N | C20H20N4O3S
